US05342846
1-Cyclopropyl-6-fluoro-7-[3-(1,2,3-triazol-1-yl) pyrrolidin-1-yl]-8-methoxy-1,4-dihydro-4-oxoquinoline -3-carboxylic acid
Ethyl-6,7-difluoro-1-cyclopropyl-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate was complexed with fluoroboric acid according to the procedure described in Example 34, and then reacted with 3-(1,2,3-triazol-1-yl)pyrrolidine under the same reaction conditions, followed by hydrolysis to yield the desired product, m.p. 200°-201° C. 1H NMR (TFA) δ: 9.34 (s, 1H), 8.69 (d, 1H), 8.58 (d, 1H), 8.09 (d, 13.3HZ, 1H), 5.93-5.8 (m, 1H), 4.83-4.34 (m, 4H), 4.2-4.0 (m, 2H), 3.79 (s, 3H), 3.05-2.75 (m, 2H), 1.7-1.1 (m, 4H). Anal. calcd. for C20H20FN5O4 . 1/2 H2O: C, 56.87; H, 5.01; N, 16.58. Found: C, 56.86; H, 4.68; N, 16.24.

reactant | Ethyl-6,7-difluoro-1-cyclopropyl-8-methoxy-1,4-dihydro-4-oxoquinoline-3-carboxylate | C(C)OC(=O)C1=CN(C2=C(C(=C(C=C2C1=O)F)F)OC)C1CC1 | C16H15F2NO4
reactant | fluoroboric acid | F[B-](F)(F)F.[H+]
reactant | 3-(1,2,3-triazol-1-yl)pyrrolidine | N1(N=NC=C1)C1CNCC1 | C6H10N4
product | 1-Cyclopropyl-6-fluoro-7-[3-(1,2,3-triazol-1-yl) pyrrolidin-1-yl]-8-methoxy-1,4-dihydro-4-oxoquinoline -3-carboxylic acid | C1(CC1)N1C=C(C(C2=CC(=C(C(=C12)OC)N1CC(CC1)N1N=NC=C1)F)=O)C(=O)O | C20H20FN5O4
